US08604034B2
To a solution of 10a-(4-methoxyphenyl)-8-[(trimethylsilyl)ethynyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (84 mg, 0.22 mmol) in methanol (5 mL) was added potassium carbonate (60 mg, 0.43 mmol). The suspension was stirred at room temperature until the reaction was complete (monitored by LCMS). The solid was suspended in CH2Cl2, filtered and concentrated in vacuo to give a residue that was purified by flash chromatography (Biotage SP4, 12 g cartridge, CH2Cl2 3CV, gradient 0-10% MeOH in CH2Cl2 10CV). To give 8-Ethynyl-10a-(4-methoxyphenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one as a yellow solid (60 mg, yield 89%). ESI-MI m/z [M+H]+ 308.0.

reactant | 10a-(4-methoxyphenyl)-8-[(trimethylsilyl)ethynyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 0.22 mmol, 84 mg | COC1=CC=C(C=C1)C12N(C(C=3N(C1)C(=CC3)C#C[Si](C)(C)C)=O)CCN2 | C21H25N3O2Si
reactant | potassium carbonate | 0.43 mmol, 60 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 5 mL | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Ethynyl-10a-(4-methoxyphenyl)-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 60 mg, yield 89% | C(#C)C1=CC=C2N1CC1(N(C2=O)CCN1)C1=CC=C(C=C1)OC | C18H17N3O2
